US07528143B2
tert-Butyl 4-(4-aminophenyl)piperidine-1-carboxylate (Intermediate 63)
To a solution of 4-(4-nitrophenyl)piperidine (412 mg, 2 mmol) in CH2Cl2 (100 mL) was added di-tert-butyl carbonate (480 mg, 2.2 mmol) and N,N-dimethylpyridin-4-amine (50 mg, 0.4 mmol). The mixture was stirred for 20 h at room temperature. The mixture was added saturated NaHCO3 (100 mL). The organic layer was separated and aqueous was extracted with CH2Cl2 (50 mL×2). The combined organic solution was dried and concentrated in vacuo. The residue was dissolved in MeOH and bubbled with Ar for 2 min. before adding 10% Pd—C. The hydrogenation was finished in 4 h. The catalyst was removed by filtration and solvent was removed in vacuo to afford title compound (460 mg, 83%) as white solid.

reactant | 4-(4-nitrophenyl)piperidine | 2 mmol, 412 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1CCNCC1 | C11H14N2O2
reactant | di-tert-butyl carbonate | 2.2 mmol, 480 mg | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylpyridin-4-amine | 0.4 mmol, 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-Butyl 4-(4-aminophenyl)piperidine-1-carboxylate | 460 mg, 83% | NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
